US04472411
In 30 ml of isopropyl alcohol was dissolved 1 g of 2-nitratoethyl acetoacetate, 1.1 g of 3-nitratopropyl 3-aminocrotonate and 0.79 g of 2-nitrobenzaldehyde. The solution was treated in the manner described in Example 1 to obtain a residue, which was then subjected to column chromatography on silica gel (eluted with n-hexane-acetone=5:2) and recrystallized from ether to obtain 1.11 g of 2,6-dimethyl-4-(2-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid 3-(2-nitratoethyl) ester-5-(3-nitratopropyl) ester.

reactant | acetoacetate | 1 g | C(CC(=O)C)(=O)[O-]
reactant | 3-aminocrotonate | 1.1 g | N\C(=C/C(=O)[O-])\C
reactant | 2-nitrobenzaldehyde | 0.79 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
solvent | isopropyl alcohol | 30 ml | C(C)(C)O | C3H8O
product | 2,6-dimethyl-4-(2-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid | 1.11 g | CC=1NC(=C(C(C1C(=O)O)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)O)C | C15H14N2O6
